US08486962B2
To a solution of N-methyl benzylamine (600 mg, 5 mmol) and triethylamine (1.5 ml, 10 mmol) in anhydrous THF (15 ml), was slowly added 3-nitro benzoyl chloride (1 g, 5.4 mmol) and stirred overnight at room temperature. The solvent was evaporated to give a residue which was dissolved in ethyl acetate and washed thoroughly with water. The organic layer was dried and evaporated to give N-benzyl-N-methyl-3-nitro-benzamide (350 mg, 27%) as solid.

reactant | N-methyl benzylamine | 5 mmol, 600 mg | CNCC1=CC=CC=C1 | C8H11N
reactant | triethylamine | 10 mmol, 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | 3-nitro benzoyl chloride | 5.4 mmol, 1 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-benzyl-N-methyl-3-nitro-benzamide | 350 mg, 27% | C(C1=CC=CC=C1)N(C(C1=CC(=CC=C1)[N+](=O)[O-])=O)C | C15H14N2O3
